US05821239
4-[[(Dimethylamino)methylene]amino]-3-pyridinol
A solution prepared from of 4-amino-3-pyridinol (1.10 g) and 10 ml of N,N-dimethylformamide dimethyl acetal was refluxed for 30 minutes. At the end of this time, the reaction mixture was concentrated under reduced pressure and the residue was passed over a short column of florisil, eluting with 5% methanol/ethyl acetate. The eluate was concentrated and the residue and recrystallized from ethyl acetate/pentane to afford 0.91 g of analytically pure product, m.p. 121°-123°.

reactant | 4-amino-3-pyridinol | 1.10 g | NC1=C(C=NC=C1)O | C5H6N2O
reactant | N,N-dimethylformamide dimethyl acetal | 10 ml | COC(N(C)C)OC | C5H13NO2
product | 4-[[(Dimethylamino)methylene]amino]-3-pyridinol | CN(C)C=NC1=C(C=NC=C1)O | C8H11N3O
